US07700594B2
2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indol-4-yl acetate
Prepared according to a procedure analogous to that described for 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole using 1H-indol-4-yl acetate.

reactant | 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | ClC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
reactant | 1H-indol-4-yl acetate | C(C)(=O)OC1=C2C=CNC2=CC=C1 | C10H9NO2
product | 2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indol-4-yl acetate | C(C)(=O)OC1=C2C=C(NC2=CC=C1)B1OC(C(O1)(C)C)(C)C | C16H20BNO4
